US04921855
To a solution of 4-[5-(N-t-butoxycarbonylamino)valeryl]morpholine (1.656 g) in dry N,N-dimethylformamide (20 ml) were added sodium hydride (60% dispersion in mineral oil : 347 mg) and methyl iodide (2.462 g) at 0°-5° C. under nitrogen atmosphere. After being stirred for 6 hours at room temperature, the reaction mixture was added to ethyl acetate (200 ml) and water (200 ml). The organic layer was washed with 0.5N hydrochloric acid (200 ml), water (200 ml), aqueous sodium bicarbonate (200 ml), water (200 ml) and brine (200 ml) successively, and dried over magnesium sulfate. Evaporation of the solvent gave 4-[5-(N-methyl-N-t-butoxycarbonylamino)valeryl]morpholine (1.093 g) as an oil.

reactant | 4-[5-(N-t-butoxycarbonylamino)valeryl]morpholine | 1.656 g | C(C)(C)(C)OC(=O)NCCCCC(=O)N1CCOCC1 | C14H26N2O4
reactant | sodium hydride | 347 mg | [H-].[Na+]
reactant | methyl iodide | 2.462 g | CI | CH3I
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 4-[5-(N-methyl-N-t-butoxycarbonylamino)valeryl]morpholine | 1.093 g | CN(C(=O)OC(C)(C)C)CCCCC(=O)N1CCOCC1 | C15H28N2O4
